US07557114B2
(c) 5-(Tetrahydro-pyran-4-yl)-6-trifluoromethyl-2,3-dihydro-1H-isoindole hydrochloride
Prepared in analogy to Example A3(e) from 5-(tetrahydro-pyran-4-yl)-6-trifluoromethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and hydrochloric acid. Yellow solid. MS (m/e): 272.3 ([M+H]+, 100%).

reactant | 5-(tetrahydro-pyran-4-yl)-6-trifluoromethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)C1CCOCC1)C(F)(F)F | C19H24F3NO3
reactant | hydrochloric acid | Cl | ClH
product | 5-(Tetrahydro-pyran-4-yl)-6-trifluoromethyl-2,3-dihydro-1H-isoindole hydrochloride | Cl.O1CCC(CC1)C=1C=C2CNCC2=CC1C(F)(F)F | InChI=1S/C14H16F3NO.ClH/c15-14(16,17)13-6-11-8-18-7-10(11)5-12(13)9-1-3-19-4-2-9;/h5-6,9,18H,1-4,7-8H2;1H
